US07317125B2
Preparation of tetrahydro-thiopyran-4-carboxylic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide
A solution of tetrahydro-thiopyran-4-carboxylic acid N′-isopropyl-hydrazide (300 mg, 1.48 mmol) and (2-bromo-4-fluoro-phenoxy)-acetic acid (369 mg, 1.48 mmol) in DMF (6 ml) was treated at rt with HOBT (240 mg, 1.78 mmol), EDCI (341 mg, 1.78 mmol), and triethylamine (0.620 ml, 4.45 mmol). The reaction mixture was stirred at room temperature for 18 hours and then partitioned between 1N HCl solution and ethyl acetate. The organic layer was washed with water, brine, dried over sodium sulfate, filtered and concentrated under vacuum. The crude was purified by RP HPLC to afford the product as a solid (116 mg, 18.1%).

reactant | tetrahydro-thiopyran-4-carboxylic acid N′-isopropyl-hydrazide | 1.48 mmol, 300 mg | C(C)(C)NNC(=O)C1CCSCC1 | C9H18N2OS
reactant | (2-bromo-4-fluoro-phenoxy)-acetic acid | 1.48 mmol, 369 mg | BrC1=C(OCC(=O)O)C=CC(=C1)F | C8H6BrFO3
reactant | HOBT | 1.78 mmol, 240 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.78 mmol, 341 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 4.45 mmol, 0.620 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | tetrahydro-thiopyran-4-carboxylic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 116 mg, 18.1% | BrC1=C(OCC(=O)N(NC(=O)C2CCSCC2)C(C)C)C=CC(=C1)F | C17H22BrFN2O3S
